US07820672B2
f) 5-Chloro-4-ethoxycarbonylmethyl-2-formyl-indole-1-carboxylic acid methyl ester
5-Chloro-4-ethoxycarbonylmethyl-2-methyl-indole-1-carboxylic acid methyl ester (398 mg, 1.28 mmol) is dissolved under an atmosphere of argon in dioxane (18 ml). Selenious acid (331 mg, 2.56 mmol) is added, and the reaction mixture is heated to 100° C. for 18 hours. TLC analysis indicates complete conversion of the starting material. The reaction mixture is diluted with EtOAc and poured on water. The organic layer is washed with saturated aqueous NaCl solution, dried over Na2SO4 and concentrated. The solid residue is purified by FCC (hexane/EtOAc 2:1) to afford the title compound. 1H NMR (DMSO, 400 MHz) δ 1.20 (t, J=6.6 Hz, 3H), 4.09 (s, 3H), 4.12 (q, J=6.6 Hz, 2H), 4.19 (s, 2H), 7.64 (d, J=10.8, 1H), 8.09 (d, J=10.8, 1H), 10.32 (s, 1H); ES-MS: 346.1.1 [M+Na]+.

reactant | 5-Chloro-4-ethoxycarbonylmethyl-2-methyl-indole-1-carboxylic acid methyl ester | 1.28 mmol, 398 mg | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)CC(=O)OCC)C | C15H16ClNO4
reactant | Selenious acid | 2.56 mmol, 331 mg | [Se](=O)(O)O | H2O3Se
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Chloro-4-ethoxycarbonylmethyl-2-formyl-indole-1-carboxylic acid methyl ester | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)CC(=O)OCC)C=O | C15H14ClNO5
